US03947473
By the manner of Example 45, 4-benzoyloxy-2,3-dimethylphenol was reacted with 2-methoxybutadiene to give (±)-6-benzoyloxy-2-methoxy-2,7,8-trimethylchroman as a white powder, m.p. 101.5°-102.5°, from ether-30°-60° petroleum ether.

reactant | 4-benzoyloxy-2,3-dimethylphenol | C(C1=CC=CC=C1)(=O)OC1=C(C(=C(C=C1)O)C)C | C15H14O3
reactant | 2-methoxybutadiene | COC(=C)C=C | C5H8O
product | (±)-6-benzoyloxy-2-methoxy-2,7,8-trimethylchroman | C(C1=CC=CC=C1)(=O)OC=1C=C2CCC(OC2=C(C1C)C)(C)OC | C20H22O4
